Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
heparin
 
Attending: ___
 
Chief Complaint:
Back and neck pain
 
Major Surgical or Invasive Procedure:
___
1.  Emergency repair of posterior ventricular septal defect
with a double patch technique.
2.  Coronary artery bypass graft x 2, left internal mammary
artery graft to left anterior descending artery and saphenous
vein graft to obtuse marginal artery
.
3.  Endoscopic harvesting of the long saphenous vein
.
___ Mediastinal exploration for bleeding
.
___ Exploratory laparotomy, resection of
omental mass, ABThera temporary abdominal closure
.
___ Bedside reopening of previous
exploratory laparotomy, takedown of ABThera, abdominal washout
and abdominal wall closure
.
___ Percutaneous tracheostomy

 
History of Present Illness:
Ms. ___ is a very pleasant ___ year old woman with poor 
medical follow-up. She was in USOH until week prior to 
presentation when she awoke from sleep sudden chills/sweats/back 
pain. She tried conservative therapy without relief. She 
eventually presented to ___ late ___ and was found to 
have IMI. Code STEMI was called and she underwent emergent DES 
to her mid RCA and PDA (ONYX STENT 2.25 x22mm). She received 
Plavix load 600mg, heparin IV bolus 4000u and IV Morphine per 
outpatient records. She was not in cardiogenic shock. Cardiac 
catheterization demonstrated residual disease in the LAD and LCX 
systems. An echocardiogram revealed a preserved ejection 
fraction with inferior hypokinesis, tricuspid valve with severe 
flail leaflet with moderate regurgitation, ventricular septal 
defect associated with an aneurysm and left-to-right shunt. Peak 
and mean pressures were 63mmHg and 39mmHg,  respectively. She 
was transferred to the cardiology service at ___ for surgical 
evaluation. Her ROS was essentially negative except for poor 
medical follow-up. She has not seen a dentist "in quite some 
time. Her coronary risk factors include HTN/tobacco abuse (quit 
smoking about 10days ago).
 
Past Medical History:
Coronary Artery Disease
Hypertension
ST Elevation Myocardial Infarction
Tobacco Use
Tricuspid Regurgitation
Ventricular Septal Defect 
 
Social History:
___
Family History:
Father - MI mid-late ___, 
Mother - complications from ___
Son - cardiac arrest while running a marathon - CPR/ICD
 
Physical Exam:
HR: 114 reg  BP: 91/64  RR: 18  O2 Sat: 95% 2L
Height: 63"  Weight: 141.5 lbs

General: Sitting in bed, restless
Skin: moist, warm. Left forearm heparin IV infiltrating. 
Stopped. Multiple ecchymotic areas upper extremities. 
HEENT: PERRLA [] EOMI [x] upper dentures, tongue dry, uvular 
partially seen and midline
Neck:  Supple [x] Full ROM [x]
Chest: bibasilar rales
Heart: S1S2 reg tachy. HSM heard best LSB, no radiation. 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
Extremities: Warm [x], well-perfused [x] no edema
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+   Left: 2+
Radial       Right: 1+   Left: 1+

Carotid Bruit: none

 
Pertinent Results:
Transthoracic Echocardiogram ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. The estimated right atrial pressure is >15mmHg. 
There is mild symmetric left ventricular hypertrophy with a 
normal cavity size. There is a small area of regional left 
ventricular systolic dysfunction with severe hypokinesis to 
akinesis of the inferior septum and inferior wall (see 
schematic) and preserved/normal contractility of the remaining 
segments. There is an inferobasal aneurysm. The visually 
estimated left ventricular ejection fraction is 55-60%. There is 
no resting left ventricular outflow tract gradient. There is a 
post-infarction ventricular septal defect involving the basal to 
mid inferior septum. Dilated right ventricular cavity with 
depressed free wall motion. The aortic sinus diameter is normal 
for gender with a normal ascending aorta diameter for gender. 
There is a normal descending aorta diameter. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is no aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. 
There is no mitral regurgitation. The pulmonic valve leaflets 
are not well seen. The tricuspid valve leaflets appear 
structurally normal. There is moderate to severe [3+] tricuspid 
regurgitation. There is moderate to
severe pulmonary artery systolic hypertension. In the setting of 
at least moderate to severe tricuspid regurgitation, the 
pulmonary artery systolic pressure may be UNDERestimated. There 
is no pericardial
effusion.

IMPRESSION: Inferior/inferoseptal wall MI with basal inferior 
wall aneurysm and ventricular septal rupture involving the basal 
to mid inferior wall. Dilated right ventricle with hypokinesis 
consistent with right ventricular infarction. Moderate to severe 
pulmonary artery systolic hypertension. Moderate to severe 
tricuspid regurgitation.
. 

Transthoracic echocardiogram ___
There are EXTENSIVE areas of regional left ventricular systolic 
dysfunction with akinesis of the basal to mid inferoseptum, 
entire inferior wall, and mid inferolateral wall (see schematic) 
and preserved/normal contractility of the remaining segments. 
There is an inferobasal aneurysm. Patch material is seen. There 
is flow seen from the left to right ventricle during systole, 
suggestive of defect in the interventricular septum. Overall 
left ventricular systolic function is severely depressed. The 
visually estimated left ventricular
ejection fraction is 15%. Left ventricular cardiac index is 
severely depressed (less than 1.5 L/min/m2). Normal right 
ventricular cavity size with SEVERE global free wall 
hypokinesis. There is abnormal septal motion
c/w conduction abnormality/paced rhythm. There is trace aortic 
regurgitation. There is mild [1+] mitral regurgitation. There is 
mild [1+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal.
  IMPRESSION: Residual flow across interventricular septum 
suggestive of slight patch leak. Marked wall motion 
abnormalities c/w CAD/MI with markedly depressed biventricular 
systolic function. Mild mitral and tricuspid regurgitation. 
.
Transthoracic echocardiogram ___
The right atrial pressure could not be estimated. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is a small to moderate area of regional left 
ventricular systolic dysfunction with
akinesis of the basal inferior wall and hypokinesis of the more 
distal inferior wall and inferolateral wall (see schematic) and 
preserved/normal contractility of the remaining segments. 
Quantitative biplane left
ventricular ejection fraction is 47 % (normal 54-73%). Left 
ventricular cardiac index is normal (>2.5 L/ min/m2). There is 
residual left-to-right ventricular septal defect flow across the 
patch. Normal right ventricular
cavity size with mild global free wall hypokinesis. The aortic 
valve leaflets (3) appear structurally normal. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal. There is 
physiologic mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There
is physiologic tricuspid regurgitation. Due to acoustic 
shadowing, the severity of tricuspid regurgitation may be 
UNDERestimated. There is mild pulmonary artery systolic 
hypertension. There is a trivial pericardial effusion.
  IMPRESSION: Residual VSD flow across the patch repair. 
Regional left ventricular systolic dysfunction most c/w CAD (PDA 
distribution). Mild pulmonary artery systolic hypertension.
.

RUQ Ultrasound: ___. Nondistended gallbladder with sludge and a mildly thickened 
wall.  Findings are equivocal for acute cholecystitis. 
2. Small amount of perihepatic ascites. 
3. Small right pleural effusion. 
4. Limited evaluation of the liver due to overlying bandage.  
Within this 
limitation, normal hepatic echotexture.  No biliary ductal 
dilatation.
.

CT head: ___. No acute intracranial hemorrhage.  No large territorial 
infarction. 
2. There is prominent hypodensity in the periventricular white 
matter 
distribution.  This is likely due to chronic small vessel 
ischemic disease in this age group although not entirely 
specific. 

CTA Torso ___. Small bowel in the right lower quadrant which demonstrates 
absent or 
reduced enhancement compared to expectation and relative to the 
remainder of the bowel.  Findings are highly concerning for 
bowel ischemia or necrosis of the distal ileum.  No free air.  
Small volume nonhemorrhagic free fluid. 
2. Findings suggests mild colitis, possibly ischemic.  Sequela 
of fluid 
overload is also possible. 
3. Emphysema and mild pulmonary edema.  Atelectasis at each lung 
base with 
small bilateral pleural effusions. 
4. Minimally displaced fracture along the lateral portion of the 
first rib on the left. 
5. Fat and fluid density lesion in the mid abdomen measuring 4.5 
x 3.8 cm, 
suggesting fat necrosis. 
6. Occlusion of the left internal jugular vein. 
7. Small perfusion defects in each kidney probably small areas 
of ischemic 
involvement. 
.

RUQ Ultrasound: ___. Nondistended gallbladder with sludge with a mildly thickened 
wall, not 
substantially changed from prior study. 
2. Trace intraabdominal ascites. 
3. Small right pleural effusion. 
.

___ echo
CONCLUSION:
The left ventricle has a normal cavity size. There is a small to 
moderate area of regional left ventricular
systolic dysfunction with akinesis of the inferior wall and 
hypokinesis of the inferolateral wall (see
schematic) and preserved/normal contractility of the remaining 
segments. The visually estimated left
ventricular ejection fraction is >=40%. The VSD patch is seen 
with a residual more distal
muscular ventricular septal defect with left-to-right flow. 
Normal right ventricular cavity size with
mild global free wall hypokinesis. The aortic valve leaflets 
(?#) are mildly thickened. There is no aortic
regurgitation. There is mild [1+] tricuspid regurgitation. Due 
to acoustic shadowing, the severity of
tricuspid regurgitation may be UNDERestimated. There is mild 
pulmonary artery systolic hypertension.
There is no pericardial effusion.
IMPRESSION: Normal left ventricular cavity size with regional 
systolic dysfunction, inferior
septal patch with residual muscular ventricular septal defect 
with left-to-right flow. Normal right
ventricular cavity size with free wall hypokinesis. Mild 
pulmonary artery systolic hypertension.
No pericardial effusion.
Compared with the prior TTE (images reviewed) of ___ , 
the VSD flow is now more apparent.
.
___
Liver/GB u/s

Final Report 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) PORT 
  
INDICATION:  ___ year old woman s/p cabg/vsd repair-prolonged ICU 
course 
w/rising wbc  // assess for cholecystitis/cholestasis 
  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  Liver gallbladder ultrasound ___. 
  
FINDINGS:  
  
LIVER: Evaluation of the liver is limited secondary to overlying 
bandaging.  
Visualized hepatic parenchyma appears within normal limits.  
Contour of the 
liver is smooth without focal liver lesion.  The main portal 
vein is patent 
with appropriate directional flow.  No perihepatic free fluid.  
Note is made 
of a right pleural effusion. 
  
BILE DUCTS AND GALLBLADDER: There is no intrahepatic biliary 
dilation.  The 
gallbladder is distended without wall thickening or gallstones.  
There is mild 
intraluminal sludge.  The common hepatic duct measures 5 mm. 
  
PANCREAS: The pancreas is not well visualized, largely obscured 
by overlying 
bowel gas. 
  
KIDNEYS: Limited views of the right kidney shows no 
hydronephrosis.The right 
kidney measures 9.7 cm. 
  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION: 
  
  
1. Mild gallbladder distension with small amount of intraluminal 
sludge, but 
no specific sonographic findings for acute cholecystitis. 
2. Right pleural effusion. 
  
RECOMMENDATION(S):  If there is continued clinical concern for 
acalculous 
cholecystitis, HIDA scan may be helpful. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___ electronically signed on ___ ___ 10:05 
___ 
 

  Imaging Lab 
 
 

Report History 
 ___ ___ 10:05 ___
by INFORMATION,SYSTEMS  

.
___

Final Report 
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST 
  
INDICATION:  ___ year old woman s/p VSD repair  // eval for nidus 
of infection 
  
TECHNIQUE:  Single phase split bolus contrast: MDCT axial images 
were acquired 
through the abdomen and pelvis following intravenous contrast 
administration 
with split bolus technique. 
Oral contrast was not administered 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 5.3 s, 70.7 cm; CTDIvol = 9.8 mGy 
(Body) DLP = 695.2 
mGy-cm. 
   2) Stationary Acquisition 0.6 s, 0.5 cm; CTDIvol = 3.4 mGy 
(Body) DLP = 1.7 
mGy-cm. 
   3) Stationary Acquisition 4.8 s, 0.5 cm; CTDIvol = 26.9 mGy 
(Body) DLP = 
13.4 mGy-cm. 
 Total DLP (Body) = 710 mGy-cm. 
  
COMPARISON:  ___ 
  
FINDINGS:  
  
LOWER CHEST: Please refer to the report from the concurrent CT 
chest for 
intrathoracic findings. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  There is mild periportal 
edema.  The 
gallbladder is within normal limits noting vicarious excretion 
of contrast. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size.  Faint 
perfusion all 
defects are again seen in each kidney suggestive of small 
ischemic regions..  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: An enteric tube extends to the stomach which 
is otherwise 
unremarkable.  Small bowel loops demonstrate normal caliber, 
wall thickness, 
and enhancement throughout.  The rectal tube has been removed 
and the degree 
of colonic wall thickening has resolved.  The colon and rectum 
are within 
normal limits.  The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is 
trace free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus is unremarkable, noting 
calcified fibroids.  
No adnexal abnormality. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Severe 
atherosclerotic 
disease is noted.  Right femoral arterial and venous central 
lines are 
present. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. No infectious source within the abdomen or pelvis. 
  
___, MD electronically signed on ___ ___ 
10:14 ___ 
 

  Imaging Lab 
 
 There is no report history available for viewing. 
.
___ Chest CT

Final Report 
EXAMINATION:  CT CHEST W/CONTRAST 
  
INDICATION:  ___ year old woman s/p VSD repair  // eval for nidus 
of infection 
  
TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax 
after the uneventful administration of intravenous contrast.  
Reformatted 
coronal, sagittal, thin slice axial images, and oblique maximal 
intensity 
projection images were submitted to PACS and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 5.3 s, 70.7 cm; CTDIvol = 9.8 mGy 
(Body) DLP = 695.2 
mGy-cm. 
   2) Stationary Acquisition 0.6 s, 0.5 cm; CTDIvol = 3.4 mGy 
(Body) DLP = 1.7 
mGy-cm. 
   3) Stationary Acquisition 4.8 s, 0.5 cm; CTDIvol = 26.9 mGy 
(Body) DLP = 
13.4 mGy-cm. 
 Total DLP (Body) = 710 mGy-cm. 
** Note: This radiation dose report was copied from CLIP 
___ (CT ABD AND 
PELVIS WITH CONTRAST) 
  
COMPARISON:  ___ 
  
FINDINGS:  
  
FINDINGS: 
  
NECK, THORACIC INLET, AXILLAE, CHEST WALL: The patient is post 
median 
sternotomy and CABG.  An endotracheal tube is present, 
terminating above the 
carina.  A left subclavian central venous catheter tip extends 
to the mid SVC. 
An enteric tube extends through the esophagus into the stomach.  
The 
visualized thyroid is unremarkable.  There is no supraclavicular 
or axillary 
lymphadenopathy. 
  
UPPER ABDOMEN: Please refer to the report from the concurrent CT 
of the 
abdomen and pelvis for subdiaphragmatic findings. 
  
MEDIASTINUM: There is no mediastinal lymphadenopathy. 
  
HILA: There is no hilar lymphadenopathy. 
  
HEART and PERICARDIUM: Heart is not enlarged.  Calcification of 
the coronary 
arteries and cardiac valves are noted.  There is a small 
pericardial effusion, 
not significantly changed since prior. 
PLEURA: There is a moderate right as well as a trace left 
pleural effusion, 
increased since prior.  There is no pneumothorax identified.  
Bilateral upper 
lobe bullous disease is again seen with fluid collecting inside 
of the upper 
lobe bulla. 
LUNG: 
  
-PARENCHYMA:  There is severe facet cm a. increased septal 
thickening is noted 
in the right upper lobe when compared to prior.  Bibasilar 
dependent 
consolidations are present with a somewhat heterogeneous 
enhancement pattern 
on the right. 
-AIRWAYS:  The right bronchus intermedius is occluded and a 
small amount of 
secretions are noted around the distal end of the endotracheal 
tube..  
Otherwise the airways are patent. 
-VESSELS:  This exam is not tailored for evaluation of pulmonary 
emboli.  The 
thoracic aorta is within normal limits. 
  
CHEST CAGE: No suspicious osseous lesion within the chest.  The 
sternotomy 
margins are well opposed and unremarkable.  Re demonstrated is a 
minimally 
displaced fracture of the left first rib. 
  
IMPRESSION:  
  
Debris within the right bronchus intermedius is nearly 
completely occlusive, 
and in association with a heterogeneously enhancing 
consolidation in the right 
lower lobe, findings are concerning for aspiration/pneumonia.  
Additionally, 
new interlobular septal thickening in the right upper lobe may 
be infectious 
and/or inflammatory. 
  
___, MD electronically signed on ___ ___ 
10:55 ___ 
 

  Imaging Lab 
 
 There is no report history available for viewing. 
.
  
___ Head CT

Final Report 
EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
  
INDICATION:  ___ year old woman s/p VSD repair  // eval for 
evidence of 
hemorrhage in patient with poor neuro exam s/p VSD repair 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. Coronal and sagittal reformations as well as bone 
algorithm 
reconstructions were provided and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 4.0 s, 16.0 cm; CTDIvol = 46.7 mGy 
(Head) DLP = 
747.7 mGy-cm. 
 Total DLP (Head) = 748 mGy-cm. 
  
COMPARISON:  Noncontrast head CT ___ 
  
FINDINGS:  
  
Streak artifact from the external frontal device limits study.  
There is no 
evidence of fracture, infarction,hemorrhage,edema, or mass.  
There is 
prominence of the ventricles and sulci suggestive of 
involutional changes.  
Extensive periventricular deep white matter hypodensities are 
nonspecific, but 
likely related to chronic small vessel ischemia. 
  
An air-fluid level is noted in the left sphenoid sinus.  
Otherwise, the 
visualized portion of the paranasal sinuses, mastoid air cells, 
and middle ear 
cavities are clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION:  
  
No acute intracranial abnormalities.  Extensive periventricular 
deep white 
matter hypodensities are nonspecific, but likely related to 
chronic small 
vessel ischemia. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 
9:57 ___ 
 

  Imaging Lab 
 
 

Report History 
 ___ ___ 9:57 ___
by INFORMATION,SYSTEMS  

.
___
CONCLUSION:
The right atrial pressure could not be estimated. There is a 
small area of regional left ventricular systolic
dysfunction with basal to mid inferior (see schematic). There is 
a muscular ventricular septal defect
treated with an occluder device. Normal right ventricular cavity 
size with moderate global free wall
hypokinesis. Intrinsic right ventricular systolic function is 
likely lower due to the severity of tricuspid
regurgitation. There is mild [1+] mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral
regurgitation could be UNDERestimated. The tricuspid valve 
leaflets appear structurally normal. There
is moderate tricuspid annular calcification. There is SEVERE 
[4+] tricuspid regurgitation. The estimated
pulmonary artery systolic pressure is normal. In the setting of 
at least moderate to severe tricuspid
regurgitation, the pulmonary artery systolic pressure may be 
UNDERestimated. There is a very small
circumferential pericardial effusion. There are no 2D or Doppler 
echocardiographic evidence of
tamponade.
IMPRESSION: 1) Moderate global RV systolic dysfunction in 
setting of severe tricuspid
regurgitation. RV dysfunction maybe the cause of increased 
pressor requirements. 2) Mild
regional LV systolic dysfunction c/w prior myocardial infarction 
in RCA territory. 3) Ventricular
septal occluder well seated with residual left to right flow 
(small by color doppler). The VSD flow
is located apical to occluder device. Device is located in basal 
inferoseptal myocardial segement.
Compared with the prior TTE ___, findings are largely 
similar. RV systolic function may be
less vigorous and the severity of TR has increased.
EMR 2853-P-IP-OP (O7/___) Name: ___ MRN: ___ 
Study Date: ___ 9:15:00 p. ___
MEASUREMENTS:
LEFT ATRIUM (LA)/RIGHT ATRIUM (RA)
LEFT VENTRICLE (LV)
Lateral e': 0.06m/sec (nl>0.08)
Transmitral E/e': 17 (nl<=8)
RIGHT VENTRICLE (RV)
Basal Diameter: 3.8cm (nl<4.2)
TAPSE: 1.0cm (nl>=1.7)
THORACIC AORTA/PULMONARY
ARTERY (
.

___ ___  ___  ___ 
 
Radiology Report LIVER OR GALLBLADDER US (SINGLE ORGAN) PORT 
Study Date of ___ 5:13 AM 
 
  

___ CSURG CVICU-A ___ 5:13 AM 
LIVER OR GALLBLADDER US (SINGL   Clip # ___   
Reason: s/p CABG w/elevated bilirubin and rising alk phos r/o 
cholecystitis  
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with as above  
REASON FOR THIS EXAMINATION: 
   s/p CABG w/elevated bilirubin and rising alk phos r/o 
cholecystitis  
 

 

Final Report 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) 
  
INDICATION:  ___ year old woman with as above  // s/p CABG 
w/elevated bilirubin 
and rising alk phos r/o cholecystitis 
  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  CT abdomen/pelvis ___. 
  
FINDINGS:  
  
LIVER: Evaluation of the liver is limited secondary to overlying 
bandaging.  
The visualized portions of the hepatic parenchyma are within 
normal limits. No 
focal liver lesions are identified. The main portal vein is 
patent. There is 
no perihepatic free fluid. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. 
  CHD: 4 mm 
  
GALLBLADDER: The gallbladder is minimally distended with 
intraluminal sludge.  
There is no pericholecystic free fluid or wall thickening. No 
gallstones are 
seen. 
  
PANCREAS: The pancreas is not well visualized, largely obscured 
by overlying 
bowel gas. 
  
SPLEEN: Unable to be visualized secondary to patient condition. 
  
KIDNEYS: Limited views of the right kidney shows no 
hydronephrosis.The left 
kidney was not able to be visualized. 
  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION:  
  
Minimally distended gallbladder with internal sludge, similar 
from prior.  No 
definite evidence for cholecystitis 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 
10:18 AM 
 

  Imaging Lab 
 
 

Report History 
 ___ ___ 9:14 AM
by INFORMATION,SYSTEMS  View  Close  

 ___ ___ 10:18 AM
by INFORMATION,SYSTEMS  

 
Brief Hospital Course:
Mrs. ___ was admitted on ___. An echocardiogram 
demonstrated inferior/inferoseptal wall MI with basal inferior 
wall aneurysm and ventricular
septal rupture involving the basal to mid inferior wall. Dilated 
right ventricle with hypokinesis consistent with right 
ventricular infarction. Moderate to severe pulmonary artery 
systolic hypertension. Moderate to severe tricuspid 
regurgitation. She was initially quite stable however she 
developed recurrent pain. She was taken to the operating room on 
___. She underwent an emergency repair of posterior 
ventricular septal defect with a double patch technique, 
Coronary artery bypass graft x 2 (left internal mammary artery 
graft to left anterior descending artery and saphenous vein 
graft to obtuse marginal artery; Endoscopic harvesting of the 
long saphenous vein). Of note, she had severe bullous disease 
with multiple bullae and adhesions, bilaterally. Please see 
operative note for full details. She tolerated the procedure and 
was transferred to the CVICU in critical condition for recovery 
and invasive monitoring. She had significant chest tube output 
and received multiple products to correct coagulopathy. 
Ultimately, she was taken back to the operating room for 
mediastinal exploration.  
Post-operatively she had acute hypoxic respiratory failure and 
was started on veletri. CRRT was initiated for volume 
management, but it was difficult to remove volume due to 
profound hypotension requiring multiple pressors. Infectious 
disease was consulted for possible sepsis to explain her 
prolonged hypotension. Many cultures were drawn but not yielded 
a source. She was placed on broad spectrum antibiotics and Chest 
tubes remained in due to recurrent pneumothorax with waterseal 
trials. Post-operative echocardiogram revealed biventricular 
dysfunction, ejection fraction 15%. Heart failure was consulted 
due to inability to wean from inotropic support due to 
persistent low cardiac output and Mvo2. Amiodarone gtt was 
started for atrial fibrillation with RVR. 
On ___ her white blood cell count, liver function tests and 
lactate elevated. Acute surgery was consulted and took her to 
the operating room for an exploratory laparotomy. There was an 
approximately 5 cm firm
calcified omental mass, which was likely not involved in this 
process, but could be certainly cause a future obstructions and 
this was easily resected off of the omentum. No other cause was 
discovered for leukocytosis and lactic acidosis. Her abdomen was 
left open.  On ___ the same service performed a bedside 
reopening of her previous exploratory laparotomy, abdominal 
washout and abdominal wall closure.

 She continued to be dependent on multiple high dose pressors 
for hypotension. On ___ the cardiac surgery team met with 
the family and related the critical nature of her condition. 
That evening she had thrombocytopenia and began thrombosing her 
hemodialysis line, a HIT was sent and returned positive. She was 
placed on bivalrudin and hematology was consulted. By the 
following day her ptt was therapeutic, but she developed 
significant bleeding from her mouth so it was stopped. As her 
liver function tests continued to rise, Dr. ___ a 
hepatology consult. They recommended goals of care discussion 
with the family.

Bivalrudin stopped for GI bleed. Post-op Afib->started
Amio then discontinued for bradycardia. Fluctuating pressor
requirement. 
Underwent trach on ___.
Plavix restarted after trach.
TTE ___ with RV dilation, dysfunction and 4+ TR with normal PA
pressures. Concern for worsening RV failure. 

Leukocytosis persisted. Culture data largely negative, urine and 
sputum w/yeast. ___
CT ABD/pelvis neg and chest w/ RLL consolidation-> bronch-BAL
w/yeast. Antibx course of ___ and mica for presumed 
sepsis
completed. Lines changed ___. CXR w/right effusion drained
___ fluid w/ NG. Cdiff negative. 

There were several family meetings regarding the patient's 
clinical status. 
Dr. ___ spoke with ___ son ___ regarding transition to 
comfort focused care as patient has multiorgan system failure 
despite aggressive medical intervention and is unlikely  to 
return to level of functioning that her family feels she would
find acceptable.  Family arrived and the patient was made CMO. 
Patient was started on IV fentanyl drip for comfort. Morphine 
and lorazepam were also used as adjuvants for comfort. Telemetry 
showed that the patient became asystolic at 11:32pm- see death 
note for details. Condolences were provided to the family and 
autopsy was declined. 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
expired
 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Ventricular septal defect
Coronary artery disease
Atrial fibrillation
Acute hypoxic respiratory failure
Renal Failure
Acute systolic and diastolic heart failure

Secondary diagnosis: 
Hypertension 

 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___